US03976650
3-Hydroxymethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, butyl ester
To sodium ethoxide freshly prepared from 4.8 g. of sodium hydride and 6.0 ml. of ethanol is added 16.0 g. of butyl 6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydroquinoline-1-carboxylate and 19.8 ml. of ethyl formate in 150 ml. of benzene over a 30 min. period. The reaction mixture, after stirring at room temperature for 4 hrs., is poured onto 250 ml. of ice-water. The aqueous layer is retained and the organic layer extracted with 1N aqueous sodium hydroxide. The base extracted is combined with the separated aqueous and backwashed with benzene. The aqueous layer is then added to 250 ml. of 12N hydrochloric acid. The resulting yellow oil is extracted with chloroform and the chloroform layer dried over magnesium sulfate. The solvent is removed under reduced pressure and the residual product used in subsequent reactions without further purification.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium hydride | [H-].[Na+]
reactant | butyl 6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydroquinoline-1-carboxylate | COC=1C=C2C(CC(N(C2=CC1OC)C(=O)OCCCC)C)=O | C17H23NO5
reactant | ethyl formate | C(=O)OCC | C3H6O2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | ethanol | C(C)O | C2H6O
product | 3-Hydroxymethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, butyl ester | OC=C1C(N(C2=CC(=C(C=C2C1=O)OC)OC)C(=O)OCCCC)C | C18H23NO6
